US04966975
Step (4) Preparation of 8-Bromo-2-hydroxymethylnaphthalene
To a cooled (0° C.), stirred suspension of 8-bromo-2-naphthoic acid (2.25 g, 8.96 mmol) in THF (12 mL) was added BH3.THF (1M in THF, 12.5 mL, 12.50 mmol) over 20 minutes. The cooling bath was removed and stirring was continued at room temperature overnight. The mixture was recooled to 0° C. and saturated aqueous K2CO3 (8 mL) was added. H2O (10 mL) was added and the mixture was extracted with ether. The combined extracts were washed with saturated aqueous NaCl, dried (MgSO4) and concentrated. The crude product was recrystallized from ether/hexane to give an off-white solid (1.70 g, 80%), m.p. 110°-111° C.

reactant | 8-bromo-2-naphthoic acid | 8.96 mmol, 2.25 g | BrC=1C=CC=C2C=CC(=CC12)C(=O)O | C11H7BrO2
reactant | BH3.THF | 12.50 mmol, 1M, 12.5 mL | B.C1CCOC1
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 8-Bromo-2-hydroxymethylnaphthalene | 1.70 g, 80% | BrC=1C=CC=C2C=CC(=CC12)CO | C11H9BrO
